US05281593
ii) 3-[2(E)-(Quinolin-2-yl)ethenyl]benzyl alcohol
Solid lithium aluminium hydride (0.25 g) was added in portions to a stirred solution of methyl 3-[2(E)-(quinolin-2-yl)ethenyl]benzoate (2.1 g, 7.3 mmol) in tetrahydrofuran (50 ml). The mixture was stirred for 30 minutes, diluted with sodium hydroxide solution and extracted with ethyl acetate. The extract was dried and evaporated and the residue was chromatographed on silica in ethyl acetate-hexane (1:1).

reactant | lithium aluminium hydride | 0.25 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 3-[2(E)-(quinolin-2-yl)ethenyl]benzoate | 7.3 mmol, 2.1 g | N1=C(C=CC2=CC=CC=C12)/C=C/C=1C=C(C(=O)OC)C=CC1 | C19H15NO2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | sodium hydroxide | [OH-].[Na+]
product | 3-[2(E)-(Quinolin-2-yl)ethenyl]benzyl alcohol | N1=C(C=CC2=CC=CC=C12)/C=C/C=1C=C(CO)C=CC1 | C18H15NO
